US05834506
5-tert-Butyl-4-hydroxy-2-methylbenzoic acid methyl ester
A solution of 5-tert-butyl-4-(2-methoxy-ethoxymethoxy)-2-methyl benzoic acid from Example AAA (20.9 g, 70.5 mmol), MeOH (150 mL), and H2 SO4 (10 mL) was refluxed for 5 hours and stirred overnight at room temperature. The mixture was concentrated by half, diluted with H2O, and extracted with EtOAc. The combined extracts were washed with brine, dried (MgSO4), and concentrated to give the title compound. 1H NMR (CDCl3) δ 1.36 (s, 9 H), 2.48 (s, 3 H), 3.82 (s, 3 H), 6.48 (s, 1 H), 7.87 (s, 1 H).

reactant | 5-tert-butyl-4-(2-methoxy-ethoxymethoxy)-2-methyl benzoic acid | C(C)(C)(C)C=1C(=CC(=C(C(=O)O)C1)C)OCOCCOC | C16H24O5
reactant | MeOH | 150 mL | CO | CH4O
product | 5-tert-Butyl-4-hydroxy-2-methylbenzoic acid methyl ester | COC(C1=C(C=C(C(=C1)C(C)(C)C)O)C)=O | C13H18O3
